US07368578B2
Under ice-cooling, 98% formic acid (12.75 g) was added to acetic anhydride (22.97 g) using an dropping funnel, the obtained mixture was stirred at 50-60° C. for 2 hrs, and cooled to room temperature. Tetrahydrofuran (25 mL) was added to the obtained mixture and a solution of ethyl 3-amino-1-phenyl-1H-pyrazole-4-carboxylate (20.00 g) in tetrahydrofuran (20 mL) was added. The obtained mixture was stirred at room temperature for 3 hrs and concentrated. The residue was recrystallized from ethyl acetate-hexane to give ethyl 3-(formylamino)-1-phenyl-1H-pyrazole-4-carboxylate as colorless needle crystals (20.89 g, yield 93%). melting point: 135-136° C.

reactant | formic acid | 12.75 g | C(=O)O | CH2O2
reactant | acetic anhydride | 22.97 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl 3-amino-1-phenyl-1H-pyrazole-4-carboxylate | 20.00 g | NC1=NN(C=C1C(=O)OCC)C1=CC=CC=C1 | C12H13N3O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | ethyl 3-(formylamino)-1-phenyl-1H-pyrazole-4-carboxylate | C(=O)NC1=NN(C=C1C(=O)OCC)C1=CC=CC=C1 | C13H13N3O3
